US05808097
A solution of potassium permanganate (16.6 g) in water (100 ml) was added dropwise to a 0° C. solution of (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[(S)-2-methyl-1-((R)-2,2,2-trifluoro-1-hydroxyethyl)propyl]pyrrolidine-2-carboxamide (15 g) in tert-butyl alcohol (175 ml), water (100 ml), and 0.6M sodium hydroxide solution (175 ml). The solution was stirred for 2 hours and then quenched by addition of methanol (70 ml), followed by stirring for 1 hour. The mixture was filtered through diatomaceous earth and the filtrate made acidic to pH 2 using 1M hydrochloric acid, and saturated with sodium chloride. The product was extracted into ether (5×100 ml) and the solvent removed under vacuum. The resulting oil was chromatographed (methanol: dichloromethane 5:95) and the solvent removed to give an oil. Hexane (40 ml) was added to a stirred solution of the oil in ethyl acetate (which had been presaturated with water) (40 ml) and stirring was continued for 24 hours over which time a crystalline solid formed. Another portion of hexane (40 ml) was added and the solid was collected and dried under vacuum (40° C.) to give (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[(S)-2-methyl-1-(2,2,2-trifluoroacetyl)propyl]-pyrrolidine-2-carboxamide (9.45 g) as a white crystalline solid (as substantially or essentially Form A); 1H NMR (300 MHz, DMSO/D2O): 4.42 (m, 1H) 4.02 (d, 1H), 3.73 (m, 1H), 3.59 (m, 1H), 3.54 (s, 3H), 2.23 (m, 1H), 2.00-1.76 (m, 6H), 0.91 (m, 6H), 0.85 (d, 3H), 0.80 (d, 3H); Analysis for C18H28F3N3 O5.H2O: Calculated; C, 48.97; H, 6.85; N, 9.51; Found: C, 49.02, H, 6.80; N, 9.66; (XDS shown in FIG. 1).

reactant | potassium permanganate | 16.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[(S)-2-methyl-1-((R)-2,2,2-trifluoro-1-hydroxyethyl)propyl]pyrrolidine-2-carboxamide | 15 g | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)N[C@@H](C(C)C)[C@H](C(F)(F)F)O)C(C)C | C18H30F3N3O5
reactant | sodium hydroxide | 0.6M, 175 ml | [OH-].[Na+]
reactant | Hexane | 40 ml | CCCCCC | C6H14
reactant | hexane | 40 ml | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
solvent | tert-butyl alcohol | 175 ml | C(C)(C)(C)O | C4H10O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[(S)-2-methyl-1-(2,2,2-trifluoroacetyl)propyl]-pyrrolidine-2-carboxamide | 9.45 g | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)N[C@@H](C(C)C)C(C(F)(F)F)=O)C(C)C | C18H28F3N3O5
